US09290522B2
A mixture of 1-octanol (40 mL, 252 mmol), acetic anhydride (26 mL, 278 mmol) and compound from Example 1 (0.6 g, 1 wt %) was stirred at 16° C. for 2 h. The solution was filtered and excess acetic anhydride removed by distillation to give 1-octyl acetate as the only product.

reactant | 1-octanol | 252 mmol, 40 mL | C(CCCCCCC)O | C8H18O
reactant | acetic anhydride | 278 mmol, 26 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 1-octyl acetate | C(C)(=O)OCCCCCCCC | C10H20O2
